US04623690
Aminopropylurethane resin A3
603 g of anhydrous ethylacetate, 603 g of trimethylol propane, 133.5 g of dimethyl amino ethanol and 178.5 g of methyl diethanol amine are dissolved. Into this solution in a double wall flask there is added drop by drop a solution of 522 g of anhydrous ethylacetate and 1044 g of toluylene diisocyanate at 40° C., under thorough agitation and simultaneous cooling, over a period of 3 hours, wherein the temperature does not exceed 50° C. To complete the reaction, the mixture is then heated to 60° C. and after attaining a NCO proportion of 0% it is diluted with 490 g of ethylene glycol monoethyl ether. The ethylacetate is distilled off as completely as possible in vacuo at 60° C. and the product diluted with further 500 g of ethylene glycol monoethyl ether.

reactant | trimethylol propane | 603 g | C(O)C(CC)(CO)CO | C6H14O3
reactant | dimethyl amino ethanol | 133.5 g | CCC(O)(N)C | C4H11NO
reactant | methyl diethanol amine | 178.5 g | CN(CCO)CCO | C5H13NO2
reactant | toluylene diisocyanate | 1044 g | C1=CC=C(C=C1)C(N=C=O)N=C=O | C9H6N2O2
solvent | ethylene glycol monoethyl ether | 490 g | C(C)OCCO | C4H10O2
solvent | ethylacetate | 522 g | C(C)OC(C)=O | C4H8O2
solvent | ethylacetate | 603 g | C(C)OC(C)=O | C4H8O2
product | Aminopropylurethane | NCCCNC(=O)OCC | C6H14N2O2
